US07642264B2
2-Chloro-4-[4-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidine
The title compound was prepared from 2-iodo-4-methyl-6-(4-trifluoromethyl-phenyl)pyridine (example A.58) (2.55 g, 7.0 mmol), i-PrMgCl/ZnCl2 and commercially available 2,4-dichloropyrimidine (1.08 g, 7.21 mmol) according to the general procedure IVc protocol b. Obtained as a light brown solid (0.896 g, 37%). MS (ISP) 350.3 [(M+H)+] and 352 [(M+2+H)+].

reactant | 2-iodo-4-methyl-6-(4-trifluoromethyl-phenyl)pyridine | 7.0 mmol, 2.55 g | IC1=NC(=CC(=C1)C)C1=CC=C(C=C1)C(F)(F)F | C13H9F3IN
reactant | 2,4-dichloropyrimidine | 7.21 mmol, 1.08 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
catalyst | i-PrMgCl ZnCl2 | C(C)(C)[Mg]Cl.[Cl-].[Cl-].[Zn+2]
product | 2-Chloro-4-[4-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidine | ClC1=NC=CC(=N1)C1=NC(=CC(=C1)C)C1=CC=C(C=C1)C(F)(F)F | C17H11ClF3N3
